US08877744B2
Reaction of [bis-(4-methoxy-phenyl)-phenyl-methyl]-{(R)-5-[5-(5,5-dimethyl-[1,3,2]dioxaborinan-2-yl)-2-fluoro-phenyl]-6,6-difluoro-5,7,7-trimethyl-2,5,6,7-tetrahydro-[1,4]oxazepin-3-yl}-amine (intermediate B10.1) (300 mg, 380 μmol) with 2-(4-bromo-1H-imidazol-1-yl)-5-(trifluoromethyl)pyridine (111 mg, 380 μmol) yielded the [bis-(4-methoxy-phenyl)-phenyl-methyl]-((R)-6,6-difluoro-5-{2-fluoro-5-[1-(5-trifluoromethyl-pyridin-2-yl)-1H-imidazol-4-yl]-phenyl}-5,7,7-trimethyl-2,5,6,7-tetrahydro-[1,4]oxazepin-3-yl)-amine (77 mg, 25% yield) as a yellow foam. MS (ISP): m/z=800.3 [M+H]+.

reactant | [bis-(4-methoxy-phenyl)-phenyl-methyl]-{(R)-5-[5-(5,5-dimethyl-[1,3,2]dioxaborinan-2-yl)-2-fluoro-phenyl]-6,6-difluoro-5,7,7-trimethyl-2,5,6,7-tetrahydro-[1,4]oxazepin-3-yl}-amine | 380 μmol, 300 mg | COC1=CC=C(C=C1)C(C1=CC=CC=C1)(C1=CC=C(C=C1)OC)NC=1COC(C([C@@](N1)(C)C1=C(C=CC(=C1)B1OCC(CO1)(C)C)F)(F)F)(C)C | C40H44BF3N2O5
reactant | 2-(4-bromo-1H-imidazol-1-yl)-5-(trifluoromethyl)pyridine | 380 μmol, 111 mg | BrC=1N=CN(C1)C1=NC=C(C=C1)C(F)(F)F | C9H5BrF3N3
product | [bis-(4-methoxy-phenyl)-phenyl-methyl]-((R)-6,6-difluoro-5-{2-fluoro-5-[1-(5-trifluoromethyl-pyridin-2-yl)-1H-imidazol-4-yl]-phenyl}-5,7,7-trimethyl-2,5,6,7-tetrahydro-[1,4]oxazepin-3-yl)-amine | 77 mg, 25% yield | COC1=CC=C(C=C1)C(C1=CC=CC=C1)(C1=CC=C(C=C1)OC)NC=1COC(C([C@@](N1)(C)C1=C(C=CC(=C1)C=1N=CN(C1)C1=NC=C(C=C1)C(F)(F)F)F)(F)F)(C)C | C44H39F6N5O3
